US05441971
A mixture of 5-methoxymethoxymethyl-2-methylpyridine (30.5 g) and formalin (37% aq., HCHO, 22.2 g) was heated in a sealed tube at 150° to 160° C. for 8 hours. The reaction mixture was concentrated under reduced pressure and the oily residue was subjected to silica gel column chromatography. A fraction eluted with chloroform-methanol (20:1, v/v) gave 2-(5-methoxymethoxymethyl-2-pyridyl)ethanol (11.8 g, yield: 33%) as oil.

reactant | 5-methoxymethoxymethyl-2-methylpyridine | 30.5 g | COCOCC=1C=CC(=NC1)C | C9H13NO2
reactant | formalin | 22.2 g | C=O | CH2O
product | 2-(5-methoxymethoxymethyl-2-pyridyl)ethanol | 11.8 g, yield: 33% | COCOCC=1C=CC(=NC1)CCO | C10H15NO3
